US05034395
0.5 Gram of methyl 3-(4-hydroxyphenyl)-2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate was dissolved in 5 ml of pyridine, then to this solution was added 0.5 ml of acetic anhydride under an ice-cooling condition. The reaction mixture was allowed to stand overnight, then poured into an ice-water, and extracted with ether. The ether layer was washed with a diluted hydrochloric acid, 10%-sodium bicarbonate aqueous solution and water in this order, then dried with anhydrous sodium sulfate. The ether extract was concentrate, and the residue thus obtained was purified by means of a silica gel column chromatography (eluent: methanol:chloroform=1:100) to yield 0.4 g of methyl 3(4-acetyloxyphenyl)-2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate in the form of light yellow indefinite form crystals.

reactant | methyl 3-(4-hydroxyphenyl)-2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC\C=C\C1=CC=C(C=C1)O)C | C25H24N2O7
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | methyl 3(4-acetyloxyphenyl)-2(E)-propenyl 1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-pyridine-3,5-dicarboxylate | 0.4 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC\C=C\C1=CC=C(C=C1)OC(C)=O)C | C27H26N2O8
